US04352752
According to the same procedure as in Example 1, 1-(1-methoxycarbonyl-2-phenylethyl)-3-benzyloxy-4-phenylazetidin-2-one (1.0 g.) was subjected to hydrogenolysis at 50° C. in methanol (50 ml.) under a hydrogen pressure of one atmosphere in the presence of a 10% Pd-C (255 mg.). The reaction was completed in 48 hours. The same after-treatment as in Example 1 was followed to give methyl ester of α-hydroxy-β-phenylpropionylphenylalanine (784 mg., yield: 100%), which was an oil.

reactant | 1-(1-methoxycarbonyl-2-phenylethyl)-3-benzyloxy-4-phenylazetidin-2-one | 1.0 g | COC(=O)C(CC1=CC=CC=C1)N1C(C(C1C1=CC=CC=C1)OCC1=CC=CC=C1)=O | C26H25NO4
reactant | methanol | 50 ml | CO | CH4O
catalyst | Pd-C | 255 mg | [Pd] | Pd
product | α-hydroxy-β-phenylpropionylphenylalanine | 784 mg, yield: 100% | O[C@](NC(CCC1=CC=CC=C1)=O)(CC1=CC=CC=C1)C(=O)O | C18H19NO4
